US07053107B2
6-(2-Prop-2-ynylcarbamoyl-phenylamino)-1H-indazole-3-carboxylic acid methylamide
Dissolved 6-(2-Prop-2-ynylcarbamoyl-phenylamino)-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carboxylic acid methylamide (30 mg) in 1.5 mL of a 90:10:1 mixture of CH2Cl2:Trifluoroacetate TFA:triethyl silane and heat to reflux for 2 hours. Diluted the solution with toluene (40 mL) and concentrate by rotary evaporation to an oil. Dissolved the oil in DMF (1 mL), and filter using a 0.2-micron syringe filter. Used prep-HPLC to isolate the desired compound (12 mg, 50%). 1H NMR (CDCl3-d) δ 9.96 (1H, s), 9.49 (1H, s), 8.28 (1H, d, J=8.85 Hz), 7.47 (1H, m), 7.34 (1H, m), 7.22 (1H, m), 7.15 (1H, dd, J1=8.76 Hz, J2=1.79 Hz), 6.99 (1H, m), 6.86 (1H, t, J=6.97 Hz), 6.31 (1H, m), 4.23 (2H, dd, J1=5.18 Hz, J2=2.54 Hz), 3.49 (3H, s), 2.29 (s,1H).

reactant | 6-(2-Prop-2-ynylcarbamoyl-phenylamino)-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carboxylic acid methylamide | 30 mg | CNC(=O)C1=NN(C2=CC(=CC=C12)NC1=C(C=CC=C1)C(NCC#C)=O)C1OCCCC1 | C24H25N5O3
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | Trifluoroacetate TFA | OC(=O)C(F)(F)F.FC(C(=O)O)(F)F | 2C2HF3O2
reactant | triethyl silane | C(C)[SiH](CC)CC | C6H16Si
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 6-(2-Prop-2-ynylcarbamoyl-phenylamino)-1H-indazole-3-carboxylic acid methylamide | 12 mg, 50% | CNC(=O)C1=NNC2=CC(=CC=C12)NC1=C(C=CC=C1)C(NCC#C)=O | C19H17N5O2
